### PR TITLE
[Merged by Bors] - feat: add Mathlib.NumberTheory.NumberField.DirichletDensity

### PR DESCRIPTION
**Pull request by riccardobrasca**
This PR defines the Dirichlet density of a set of ideals.

---
A first version of the code has been written by Claude, but it has gone through extensive review by the authors.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean [hunk 1]
```diff
@@ -0,0 +1,95 @@
...
+noncomputable section
+
+open Filter IsDedekindDomain Topology Set
+
+namespace NumberField
+
+variable {K : Type*} [Field K] [NumberField K] (S : Set (HeightOneSpectrum (𝓞 K)))
+
+/-- The partial Dirichlet series `∑_{𝔭 ∈ S} N𝔭 ^ (-s)`. -/
+def primeIdealZetaSum (S : Set (HeightOneSpectrum (𝓞 K))) (s : ℝ) : ℝ :=
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/DirichletDensity.lean:51]: Is it worth going through `LSeries` here?

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/DirichletDensity.lean:51]: I'm afraid it would be kind of overkill here. For example, I have a basic summability proof (in a forthcoming PR) that works better with this direct definition.

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean [hunk 2]
```diff
@@ -0,0 +1,95 @@
...
+module
+
+public import Mathlib.Analysis.SpecialFunctions.Pow.Real
+public import Mathlib.NumberTheory.NumberField.Basic
+public import Mathlib.RingTheory.Ideal.Norm.AbsNorm
+
+/-!
+# Dirichlet density of a set of prime ideals
+
+Let `K` be a number field and let `S` be a set of nonzero prime ideals of `𝓞 K`, that is a set of
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: Don't really understand English, but looks weird to my eyes without a comma.
```suggestion
Let `K` be a number field and let `S` be a set of nonzero prime ideals of `𝓞 K`, that is, a set of
```

Comment (tb65536) [reply Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: (or perhaps there is a better rephrasing)

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean [hunk 3]
```diff
@@ -0,0 +1,95 @@
...
+elements of `IsDedekindDomain.HeightOneSpectrum (𝓞 K)`. The Dirichlet density of `S` is
+
+  δ(S) = lim_{s → 1⁺} Σ_{𝔭 ∈ S} N𝔭 ^ (-s) / Σ_𝔭 N𝔭 ^ (-s),
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: Should this have backticks around it?

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean [hunk 4]
```diff
@@ -0,0 +1,95 @@
...
+theorem primeIdealZetaSum_le_card_of_finite (hS : S.Finite) {s : ℝ} (hs : 0 ≤ s) :
+    primeIdealZetaSum S s ≤ S.ncard := by
+  let : Fintype S := @Fintype.ofFinite _ hS.to_subtype
+  rw [primeIdealZetaSum_def, tsum_fintype, ← Nat.card_coe_set_eq, Nat.card_eq_fintype_card]
+  calc ∑ 𝔭 : S, (Ideal.absNorm 𝔭.1.asIdeal : ℝ) ^ (-s)
+      ≤ ∑ 𝔭 : S, 1 := by
+        refine Finset.sum_le_sum fun 𝔭 _ ↦ Real.rpow_le_one_of_one_le_of_nonpos ?_ (by linarith)
+        exact_mod_cast Nat.one_le_iff_ne_zero.mpr
+          (by rw [Ne, Ideal.absNorm_eq_zero_iff]; exact 𝔭.1.ne_bot)
+    _ = Fintype.card S := by rw [Finset.sum_const, Finset.card_univ, nsmul_eq_mul, mul_one]
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: Maybe some of these should be tagged with `@[simp]`?
```suggestion
  replace hS := hS.to_subtype
  grw [primeIdealZetaSum_def, Real.rpow_le_one_of_one_le_of_nonpos] <;>
  simp [Summable.of_finite, Nat.one_le_iff_ne_zero,
    Ideal.absNorm_eq_zero_iff, hs, HeightOneSpectrum.ne_bot]
```

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean [hunk 5]
```diff
@@ -0,0 +1,95 @@
...
+
+/-- `S` has Dirichlet density `δ` when the ratio `∑_{𝔭 ∈ S} N𝔭 ^ (-s) / ∑_𝔭 N𝔭 ^ (-s)`, of the
+partial sum over `S` to the sum over all nonzero prime ideals, tends to `δ` as `s ↓ 1`. -/
+def HasDirichletDensity (δ : ℝ) : Prop :=
+  Tendsto (fun s : ℝ ↦ primeIdealZetaSum S s /
+    primeIdealZetaSum (univ : Set (HeightOneSpectrum (𝓞 K))) s) (𝓝[>] 1) (𝓝 δ)
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/DirichletDensity.lean:81]: Since dirichlet density is always unique, would it be better to have a def `dirichletDensity` (with a junk value) and a predicate (possibly a `class`) `HasDirichletDensity` asserting that it converges to `dirichletDensity`? Because there might be API lemmas about `dirichletDensity` that don't require `HasDirichletDensity`.

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/DirichletDensity.lean:81]: Sounds good. I'll do some changes to the PR soon in that direction (but it might take a couple of days). I think the plan is:

- Junk value via `limUnder` instead of something like 0, so statements like `HasDirichletDensity S 0` keeps its meaning.
- Just a plain def rather than a class. Maybe we could also add `DirichletDensityExists := ∃ d, ...` to get the analogue of the `HasSum`/`Summable`/`tsum` triple.
- Small caveat though: there will be fewer predicate-free lemmas than you'd hope because of `limUnder`, so even statements like `dirichletDensity S = dirichletDensity T` for S =ᶠ T will need existence.

**Comment by loefflerd** [comment]
The review-bot assigned this to me, but it looks like Thomas has it well in hand so I am reassigning it to him – don't hesitate to reach out to me if you want my input of course.

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean (hunk 5 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/DirichletDensity.lean:81]: The new version is now available

Comment (tb65536) [reply Mathlib/NumberTheory/NumberField/DirichletDensity.lean:81]: Since `HasDirichletDensity` can only ever be true for `δ = dirichletDensity`, would it be worth dropping `δ` from `HasDirichletDensity`?

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean [hunk 6]
```diff
@@ -0,0 +1,108 @@
...
+@[simp]
+theorem dirichletDensity_empty :
+    dirichletDensity (∅ : Set (HeightOneSpectrum (𝓞 K))) = 0 :=
+  hasDirichletDensity_empty.dirichletDensity_eq
+
+/-- The Dirichlet density is nonnegative. -/
+theorem HasDirichletDensity.nonneg {δ : ℝ} (h : HasDirichletDensity S δ) :
+    0 ≤ δ :=
+  ge_of_tendsto h <| Eventually.of_forall fun s ↦
+    div_nonneg (primeIdealZetaSum_nonneg S s) (primeIdealZetaSum_nonneg univ s)
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: This nonnegativity should hold for `dirichletDensity` without assumption, right?

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean (hunk 5 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/DirichletDensity.lean:81]: The point here is copy what is done for `HasSum/tsum`: a density proof usually will produces a limit with an explicit `δ`, so without it in the predicate we would have to prove the limit twice: once to prove `HasDirichletDensity` and once to compute `dirichletDensity`. Another possibility is to add the equivalent of `Summable`, say `DirichletDensityExists`, that proves that the Dirichlet density exists without specifying its value. But I am not sure we'll need that much API.

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean (hunk 6 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: Thinking about it some more, I think the `limUnder` choice was maybe a bit too cute. So I'll change the def to the `tsum` style and adapt the lemmas accordingly.

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: I have pushed the new version

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean [hunk 7]
```diff
@@ -0,0 +1,112 @@
...
+public import Mathlib.Analysis.SpecialFunctions.Pow.Real
+public import Mathlib.NumberTheory.NumberField.Basic
+public import Mathlib.RingTheory.Ideal.Norm.AbsNorm
+
+/-!
+# Dirichlet density of a set of prime ideals
+
+Let `K` be a number field. Given a set `S` of nonzero prime ideals of `𝓞 K`, its Dirichlet density
+is
+```
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: According to these suggestions
https://leanprover-community.github.io/contribute/doc.html#latex-and-markdown
I would put this (and analogous following lines) in LaTeX.

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean [hunk 8]
```diff
@@ -0,0 +1,112 @@
...
+  δ(S) = lim_{s → 1⁺} Σ_{𝔭 ∈ S} N𝔭 ^ (-s) / Σ_𝔭 N𝔭 ^ (-s),
+```
+when this limit exists. The sum in the denominator runs over all nonzero prime ideals of `𝓞 K`.
+
+This is captured by the predicate `HasDirichletDensity S δ`, stating that the ratio tends to `δ`,
+and by the def `dirichletDensity S`, the density as a real number (with junk value `0` when it does
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: Either "the `def`" or "the definition".

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean [hunk 9]
```diff
@@ -0,0 +1,112 @@
...
+by the number of elements of `S`. -/
+theorem primeIdealZetaSum_le_card_of_finite (hS : S.Finite) {s : ℝ} (hs : 0 ≤ s) :
+    primeIdealZetaSum S s ≤ S.ncard := by
+  replace hS := hS.to_subtype
+  grw [primeIdealZetaSum_def, Real.rpow_le_one_of_one_le_of_nonpos] <;>
+  simp [Summable.of_finite, Nat.one_le_iff_ne_zero,
+    Ideal.absNorm_eq_zero_iff, hs, HeightOneSpectrum.ne_bot]
+
+/-- `S` has Dirichlet density `δ` when the ratio `∑_{𝔭 ∈ S} N𝔭 ^ (-s) / ∑_𝔭 N𝔭 ^ (-s)`, of the
+partial sum over `S` to the sum over all nonzero prime ideals, tends to `δ` as `s ↓ 1`. -/
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: Is `↓` used elsewhere to mean "limit from the right"?

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean [hunk 10]
```diff
@@ -0,0 +1,112 @@
...
+/-- The Dirichlet density of `S` as a real number, taking the junk value `0` when `S` has no
+density. As with `tsum`, this value only has content when `S` has a density; the genuine statement
+that `S` has density `0` is `HasDirichletDensity S 0`. -/
+def dirichletDensity : ℝ :=
+  if h : ∃ δ, HasDirichletDensity S δ then h.choose else 0
+
+variable {S}
+
+/-- If `S` has Dirichlet density `δ`, then `dirichletDensity S = δ`. -/
+theorem HasDirichletDensity.dirichletDensity_eq {δ : ℝ} (h : HasDirichletDensity S δ) :
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: Do you want to add a result stating that whenever `hn : ∀ δ, ¬ HasDirichletDensity S δ` then the density is `0`? This would make the junk value more accessible  and explicit.

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean [hunk 11]
```diff
@@ -0,0 +1,112 @@
...
+
+## Main results
+
+* `NumberField.primeIdealZetaSum_le_card_of_finite` — for a finite `S`, the partial sum is bounded
+  above by the number of elements of `S`.
+* `NumberField.hasDirichletDensity_empty` — the empty set has Dirichlet density `0`.
+
+-/
+
+@[expose] public section
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: Since you provide explicit API everywhere, I am not sure that I would `@[expose]` this section. Do you have an argument?

**Review by faenuccio — COMMENTED** [review]
Thanks, I left a couple of comments.

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean (hunk 9 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: Not really, it's a math notation (limit from above), not a Lean one. Anyway I am clarifying it.

**Comment by xroblot** [comment]
@faenuccio, there is a very short proof that the density is less than one that I forgot to put in the PR in the first place. I could add it if you don't mind.

**Comment by faenuccio** [comment]
> @faenuccio, there is a very short proof that the density is less than one that I forgot to put in the PR in the first place. I could add it if you don't mind.

Sure, why would I mind!?

**Comment by xroblot** [comment]
> > @faenuccio, there is a very short proof that the density is less than one that I forgot to put in the PR in the first place. I could add it if you don't mind.
> 
> Sure, why would I mind!?

Well, it's more work for reviewers 😅 

Anyway, I pushed a new version but CI seems to have difficulties at the moment.

**Comment by faenuccio** [comment]
> > > @faenuccio, there is a very short proof that the density is less than one that I forgot to put in the PR in the first place. I could add it if you don't mind.
> > 
> > 
> > Sure, why would I mind!?
> 
> Well, it's more work for reviewers 😅
> 
> Anyway, I pushed a new version but CI seems to have difficulties at the moment.

No problem! Don't hesitate to ping me once CI passes so I can have a new look.

**Comment by xroblot** [comment]
> > > > @faenuccio, there is a very short proof that the density is less than one that I forgot to put in the PR in the first place. I could add it if you don't mind.
> > > 
> > > 
> > > Sure, why would I mind!?
> > 
> > 
> > Well, it's more work for reviewers 😅
> > Anyway, I pushed a new version but CI seems to have difficulties at the moment.
> 
> No problem! Don't hesitate to ping me once CI passes so I can have a new look.

@faenuccio CI is green again 😄

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean [hunk 12]
```diff
@@ -0,0 +1,146 @@
...
+
+-/
+
+public section
+
+noncomputable section
+
+open Filter IsDedekindDomain Topology Set
+
+namespace NumberField
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: If you rather put this section in `NumberField.Set` either by writing `namespace NumberField.Set` or
```
namespace NumberField

namespace Set
```
and then `open NumberField` you can use dot notation and write `S.primeIdealZetaSum` and similarly `S.HasDirichletDensity` which seems nice, no?

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean [hunk 13]
```diff
@@ -0,0 +1,146 @@
...
+/-- If `S` has no Dirichlet density, then `dirichletDensity S = 0`. -/
+theorem dirichletDensity_eq_zero_of_not_hasDirichletDensity
+    (h : ∀ δ, ¬ HasDirichletDensity S δ) : dirichletDensity S = 0 := by
+  rw [dirichletDensity, dif_neg (not_exists.mpr h)]
+
+/-- If `S` has Dirichlet density `δ`, then `dirichletDensity S = δ`. -/
+theorem HasDirichletDensity.dirichletDensity_eq {δ : ℝ} (h : HasDirichletDensity S δ) :
+    dirichletDensity S = δ := by
+  rw [dirichletDensity, dif_pos ⟨δ, h⟩]
+  exact tendsto_nhds_unique (Exists.choose_spec ⟨δ, h⟩) h
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/DirichletDensity.lean]:
```suggestion
  rw [dirichletDensity, dif_pos ⟨δ, h⟩, tendsto_nhds_unique (Exists.choose_spec ⟨δ, h⟩) h]
```

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean [hunk 14]
```diff
@@ -0,0 +1,146 @@
...
+theorem HasDirichletDensity.le_one {δ : ℝ} (h : HasDirichletDensity S δ) :
+    δ ≤ 1 := by
+  refine le_of_tendsto h (Eventually.of_forall fun s ↦ ?_)
+  rw [primeIdealZetaSum_def, primeIdealZetaSum_def,
+    tsum_univ fun 𝔭 : HeightOneSpectrum (𝓞 K) ↦ (𝔭.asIdeal.absNorm : ℝ) ^ (-s)]
+  by_cases hs : Summable fun 𝔭 : HeightOneSpectrum (𝓞 K) ↦ (𝔭.asIdeal.absNorm : ℝ) ^ (-s)
+  · exact div_le_one_of_le₀ (hs.tsum_subtype_le _ S (fun _ ↦ by positivity))
+      (tsum_nonneg fun _ ↦ by positivity)
+  · rw [tsum_eq_zero_of_not_summable hs, div_zero]
+    exact zero_le_one
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/DirichletDensity.lean]:
```suggestion
  · grw [tsum_eq_zero_of_not_summable hs, div_zero, zero_le_one]
```

**Review by faenuccio — COMMENTED** [review]
Thanks, I left one comment and two very minor golfing, but I'm happy to delegate this.

**Comment by faenuccio** [comment]
bors d=@xroblot

File: Mathlib/NumberTheory/NumberField/DirichletDensity.lean (hunk 12 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/DirichletDensity.lean]: yes, it's a good ideal! Thanks for the review
